US07977358B2
E) 1-{3-[(E)-2-(4-Chloro-phenyl)-vinyl]-phenyl}-3,5-diethyl-1H-pyrazole-4-carboxylic acid
A solution of 1.78 g (4.5 mmol) of 1-{3-[(E)-2-(4-chloro-phenyl)-vinyl]-phenyl}-3,5-diethyl-1H-pyrazole-4-carboxylic acid methyl ester in 100 ml of THF/MeOH (1:1) was treated with 11.3 ml of lithium hydroxide solution (1 M in water) at RT and then stirred at reflux (boiling temperature=80° C.) for 60 hours. The reaction mixture was then cooled to RT and evaporated. The residue was partitioned between water and CH2Cl2, acidified with HCl (2N) to pH 1-2 and extracted twice with CH2Cl2. The organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated to give 1.69 g of crude title compound as light yellow solid. MS: 379.2 ([M−H]−, 1 Cl).

reactant | 1-{3-[(E)-2-(4-chloro-phenyl)-vinyl]-phenyl}-3,5-diethyl-1H-pyrazole-4-carboxylic acid methyl ester | 4.5 mmol, 1.78 g | COC(=O)C=1C(=NN(C1CC)C1=CC(=CC=C1)\C=C\C1=CC=C(C=C1)Cl)CC | C23H23ClN2O2
reactant | lithium hydroxide | 1 M, 11.3 ml | [OH-].[Li+]
solvent | THF MeOH | 100 ml | C1CCOC1.CO
product | 1-{3-[(E)-2-(4-Chloro-phenyl)-vinyl]-phenyl}-3,5-diethyl-1H-pyrazole-4-carboxylic acid | 1.69 g | ClC1=CC=C(C=C1)/C=C/C=1C=C(C=CC1)N1N=C(C(=C1CC)C(=O)O)CC | C22H21ClN2O2
